US05329001
Cefadroxil monomethylformamide solvate (30 g) prepared according to Example 3 was slurried in 150 ml of a mixture 1:1 of methanol and isopropyl alcohol with 1% of water at 52° C. After 70' at 52° C. the mixture was cooled to 10° C., filtered and washed with acetone to yield 23.5 g of substantially anhydrous crystalline cefadroxil.

reactant | Cefadroxil monomethylformamide | 30 g | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O.CNC=O
reactant | methanol | CO | CH4O
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | cefadroxil | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC(=CC3)O)N)SC1)C(=O)O | C16H17N3O5S
